US08859768B2
A mixture of ethyl 5-bromo-3-furoate (23.7 g, 108.9 mmol), N-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-yl]acetamide (20.0 g, 72.5 mmol), Pd(dppf)Cl2 (5.92 g, 9.09 mmol) and K2CO3 (20.0 g, 72.5 mmol) in water (72.5 mL) and toluene (1240 mL) was allowed to stir at 100° C. under an atmosphere of nitrogen overnight. The mixture was filtered while hot and then concentrated. The residue was washed with EtOH and water and then dried to give ethyl 5-(2-acetamido-5-methylpyridin-4-yl)-3-furoate (20.0 g, 67%).

reactant | ethyl 5-bromo-3-furoate | 108.9 mmol, 23.7 g | BrC1=CC(=CO1)C(=O)OCC | C7H7BrO3
reactant | N-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-yl]acetamide | 72.5 mmol, 20.0 g | CC=1C(=CC(=NC1)NC(C)=O)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
reactant | K2CO3 | 72.5 mmol, 20.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 72.5 mL | O | H2O
solvent | toluene | 1240 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dppf)Cl2 | 9.09 mmol, 5.92 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 5-(2-acetamido-5-methylpyridin-4-yl)-3-furoate | 20.0 g, 67% | C(C)(=O)NC1=NC=C(C(=C1)C1=CC(=CO1)C(=O)OCC)C | C15H16N2O4
